US04328160
To a three-necked round-bottomed flask equipped with stirrer and reflux condenser was added 2 g (0.007 mole) 1-aminoanthraquinone-2-carboxylic acid, 0.5 g (0.0018) zinc dust, 5 ml of 30% ammonium hydroxide solution and 30 ml of water. The resulting mixture was refluxed gently until evolution of carbon dioxide ceased, ca. 30 minutes. The mixture was then filtered while hot, and the filter cake was washed with water. The wet cake containing the zinc catalyst was heated over a steam bath with 50% sulfuric acid for one hour. Water was added and the solid product was collected by filtration and washed with water until acid-free. The product was dried to give 1.3 g (83.3% yield) of more than 90% pure 1-aminoanthraquinone.

reactant | 1-aminoanthraquinone-2-carboxylic acid | 0.007 mole, 2 g | NC1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H9NO4
reactant | ammonium hydroxide | 5 ml | [OH-].[NH4+]
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | zinc | 0.5 g | [Zn] | Zn
solvent | water | 30 ml | O | H2O
product | 1-aminoanthraquinone | 1.3 g, 83.3% yield | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
